US07776857B2
Step 3: 4-Chloro-6,8-difluoro-quinoline
(4-Hydroxy-6,8-difluoro-quinoline, 29.1 g, 0.160 mol) was dissolved in POCl3(183 mL) and heated at reflux for 12 h. On complete consumption of starting material (tic) the contents were brought to RT and excess POCl3 was removed under reduced pressure. Crude mass was azeotroped with toluene and product was diluted with ethyl acetate, organics were washed with sodium bicarbonate and solvent removed under reduced pressure. Crude product was purified by column chromatography at 100-200 mesh size silica in 0-2% EtOAc-hexane. Mass: 199.99 (M+1).

reactant | 4-Hydroxy-6,8-difluoro-quinoline | OC1=CC=NC2=C(C=C(C=C12)F)F | C9H5F2NO
reactant | POCl3 | 183 mL | O=P(Cl)(Cl)Cl | Cl3OP
product | 4-Chloro-6,8-difluoro-quinoline | ClC1=CC=NC2=C(C=C(C=C12)F)F | C9H4ClF2N
